US06838564B2
1.0 g (0.004 mol) of 2-(2-methoxyethoxymethyl)-6-trifluoromethylnicotinic acid is dissolved in 10 ml of oxalyl chloride. Three drops of dimnethylformamide are added, and the mixture is stirred at room temperature for 1 hour. The mixture is then concentrated using a rotary evaporator, and the residue (2-(2-methoxyethoxymethyl)-6-trifluoromethylnicotinoyl chloride) is taken up in 10 ml of methylene chloride. At a temperature of 0° C., 0.84 ml (0.006 mol) of triethylamine and 0.45 g (0.004 mol) of 2,5dimethyl-2,4-dihydropyrazol-3one are added. After 2 hours at a temperature of 22° C., the solvent is removed using a vacuum rotary evaporator, and the residue that remains is dissolved in 10 ml of acetonitrile and, to rearrange the intermediate (2,5-dimethyl-2H-pyrazol-3-yl 2-(2-methoxyethoxymethyl)-6-trifluoromethylnicotinate), admixed with 0.1 ml of acetone cyanohydrin and 1.13 ml (0.008 mol) of triethylamine. The reaction solution is stirred at room temperature for four hours and then concentrated. The syrup that remains is chromatographed on silica gel. The viscous oil obtained by eluting with a mixture of toluene, ethyl alcohol, dioxane, triethylamine and water (100:40:20:20:5 parts by volume) is dissolved in ethyl acetate and washed successively with 10% hydrochloric acid and water. The organic solution is dried over Na2SO4 and concentrated, giving 0.93 g of (5-hydroxy-1,3-dimethyl-1H-pyrazol-4yl)-[2-(2-methoxyethoxymethyl)-6-trifluoromethylpyridin-3-yl]methanone in the form of a viscous oil.

reactant | 2-(2-methoxyethoxymethyl)-6-trifluoromethylnicotinic acid | 0.004 mol, 1.0 g | COCCOCC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C11H12F3NO4
reactant | triethylamine | 0.006 mol, 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | 2,5dimethyl-2,4-dihydropyrazol-3one | 0.004 mol, 0.45 g | CN1N=C(CC1=O)C | C5H8N2O
reactant | acetone cyanohydrin | 0.1 ml | CC(C#N)(O)C | C4H7NO
reactant | triethylamine | 0.008 mol, 1.13 ml | C(C)N(CC)CC | C6H15N
solvent | oxalyl chloride | 10 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (5-hydroxy-1,3-dimethyl-1H-pyrazol-4yl)-[2-(2-methoxyethoxymethyl)-6-trifluoromethylpyridin-3-yl]methanone | 0.93 g | OC1=C(C(=NN1C)C)C(=O)C=1C(=NC(=CC1)C(F)(F)F)COCCOC | C16H18F3N3O4
